US09402841B2
Step B: (S)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)methyl)pyrrolidine-1-carboxylate
To a crude reaction mixture containing (S)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)amino)methyl)pyrrolidine-1-carboxylate (0.561 g) was added ethyl hydrazinecarboxylate (0.663 g, 6.36 mmol). The reaction mixture was heated at 175° C. overnight and was subsequently cooled, diluted with EtOAc, and washed with saturated aqueous NH4Cl. The aqueous and organic layers were separated. The organic layer was concentrated to give the title compound, which was used directly in the next step.

reactant | (S)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)amino)methyl)pyrrolidine-1-carboxylate | 0.561 g | C(#N)C=1N=C(C2=CC=CC=C2C1)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C20H24N4O2
reactant | ethyl hydrazinecarboxylate | 6.36 mmol, 0.663 g | N(N)C(=O)OCC | C3H8N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)methyl)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C=1N=C(C2=CC=CC=C2C1)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H26N6O3
